US09388189B2
(S)—N,N-dimethyl-3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-5-(methylsulfonamido)benzamide
(S)—N,N-Dimethyl-3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-5-(methylsulfonamido)benzamide (215 mg, 0.28 mmol) was treated with trifluoroacetic acid (3.0 ml, 39 mmol) and a solution of ammonia (7N in methanol, 3.0 ml, 21 mmol) according to the method described in Example 27 to give 144 mg (81% yield) of the title compound. Purity 99%.

reactant | (S)—N,N-Dimethyl-3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-5-(methylsulfonamido)benzamide | 0.28 mmol, 215 mg | CN(C(C1=CC(=CC(=C1)NS(=O)(=O)C)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)=O)C | C37H45N9O5SSi
reactant | trifluoroacetic acid | 39 mmol, 3.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 21 mmol, 7N, 3.0 ml | N | H3N
product | (S)—N,N-dimethyl-3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-5-(methylsulfonamido)benzamide | 144 mg, 81% yield | CN(C(C1=CC(=CC(=C1)NS(=O)(=O)C)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)=O)C | C31H31N9O4S
